US07589101B2
Synthesis of 4-Chloro-1-triisopropylsilanyl-1H-pyrrolo[2,3-b]pyridine
To a solution of 4-chloro-1H-pyrrolo[2,3-b]pyridine (3.21 g, 21 mmol) in THF (60 mL), cooled at −78° C., is added slowly n-BuLi (1.6 M in hexane, 13.8 mL, 22 mmol). After stirring for 30 minutes, the TIPSOTf (5.77 mL, 21.4 mmol) is added. The mixture is allowed to rise to room temperature and quenched with water. The mixture is partitioned between hexanes (200 mL) and brine. The organic extracts are washed with brine, dried over Na2SO4, filtered and concentrated. The residue is purified by column chromatography (silica gel, eluting with hexanes) to afford the title compound: 1H NMR 600 MHz (Acetone-d6) δ 8.19 (d, 1H, J=5.4 Hz), 7.57 (d, 1H, J=3.0 Hz), 7.18 (d, 1H, J=5.4 Hz), 6.69 (d, 1H, J=3.0 Hz), 1.92 (sept, 3H, J=7.2 Hz), 1.12 (d, 18H, J=7.2 Hz); MS m/z 309.2 (M+1).

reactant | 4-chloro-1H-pyrrolo[2,3-b]pyridine | 21 mmol, 3.21 g | ClC1=C2C(=NC=C1)NC=C2 | C7H5ClN2
reactant | n-BuLi | 22 mmol, 1.6 M, 13.8 mL | [Li]CCCC
reactant | TIPSOTf | 21.4 mmol, 5.77 mL | [Si](C(C)C)(C(C)C)(C(C)C)OS(=O)(=O)C(F)(F)F | C10H21F3O3SSi
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | 4-Chloro-1-triisopropylsilanyl-1H-pyrrolo[2,3-b]pyridine | ClC1=C2C(=NC=C1)N(C=C2)[Si](C(C)C)(C(C)C)C(C)C | C16H25ClN2Si
